US07786132B2
(i) 5-chloro-2-(methylthio)pyrimidine-4-carbohydrazide
5-Chloro-2-(methylthio)pyrimidine-4-carboxylic acid (4.0 g, 19.6 mmol) and 1,1-carbonyl diimidazole (6.35 g, 39.2 mmol) were dissolved in 80 mL THF and stirred at room temperature. After 3 h, the solution was cooled with an ice bath and hydrazine hydrate (1.90 mL, 39.2 mmol) was added in one quick portion. The solution was allowed to stir for 5 h, gradually warming to room temperature. The reaction mixture was diluted with excess H2O and extracted with EtOAc several times. These organics were combined and washed with 2 N HCl. The combined aqueous layers were then basified carefully with 5 N NaOH, and extracted once again with EtOAc. This second set of organic layers were combined, dried over magnesium sulfate and concentrated under vacuum to give 2.46 g (58% yield) of product as a white solid. MS (M+H)+ 219.

reactant | 5-Chloro-2-(methylthio)pyrimidine-4-carboxylic acid | 19.6 mmol, 4.0 g | ClC=1C(=NC(=NC1)SC)C(=O)O | C6H5ClN2O2S
reactant | hydrazine hydrate | 39.2 mmol, 1.90 mL | O.NN
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 5-chloro-2-(methylthio)pyrimidine-4-carbohydrazide | 2.46 g, 58% yield | ClC=1C(=NC(=NC1)SC)C(=O)NN | C6H7ClN4OS
